US07935674B2
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole (3.50 g) obtained in Example 2-(3) and N,N-dimethyl-formamide (3.49 ml) were dissolved in 1,2-dichloroethane (70 ml), and thereto was added dropwise phosphorus(III) oxychloride (2.10 ml). The mixture was stirred at 70° C. for 1 hour, and thereto was added water (100 ml) at 0° C. The resultant mixture was extracted with ethyl acetate (200 ml) twice, and the combined organic layer was washed with brine (40 ml) and dried over magnesium sulfate. The insoluble materials were filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10-50:50) followed by recrystallization from ethyl alcohol (20 ml) to give 4-fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole-3-carboxaldehyde (2.93 g) as colorless crystals. mp 190-192° C. APCI-Mass m/Z 511 (M+NH4) 1H-NMR (DMSO-d6) δ 1.64 (s, 3H), 1.98 (s, 3H), 2.00 (s, 3H), 2.05 (s, 3H), 4.12 (A part of ABX, J=12.4, 2.5 Hz, 1H), 4.17 (B part of ABX, J=12.4, 5.5 Hz, 1H), 4.33 (ddd, J=10.0, 5.5 and 2.5 Hz, 1H), 5.32 (t, J=9.8 Hz, 1H), 5.56 (t, J=9.6 Hz, 1H), 5.66 (t, J=9.3 Hz, 1H), 6.36 (d, J=9.0 Hz, 1H), 7.11 (dd, J=10.6, 8.0 Hz, 1H), 7.38 (td, J=8.1, 5.1 Hz, 1H), 7.65 (d, J=8.3 Hz, 1H), 8.53 (s, 1H), 10.0 (d, J=2.9 Hz, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | 3.50 g | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | N,N-dimethyl-formamide | 3.49 ml | CN(C=O)C | C3H7NO
reactant | phosphorus(III) oxychloride | 2.10 ml | O(Cl)Cl.[P+3]
reactant | water | 100 ml | O | H2O
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
product | 4-fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole-3-carboxaldehyde | 2.93 g | FC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C=O | C23H24FNO10
